US05801170
4-(Pyrid-2-yl)phenylboronic acid
n-Butyllithium (1.6M in hexane, 2.67 ml) was added to dry ether (16 ml) at -78° C. under argon. A solution of 2-(4-bromophenyl)pyridine (D76, 1.0 g) in dry ether (20 ml) was added dropwise over 5 minutes and allowed to warm to -20° C. for approximately 2 minutes to give a deep red solution. After recooling to -78° C., triisopropylborate (1.18 ml) was added, stirred 30 minutes, warned to ambient temperature to give a yellow cloudy mixture. Water (4.2 ml) and 0.5 MNaOH (4.2 ml) were added with vigorous stirring and the mixture separated. The ether layer was extracted with 0.5M NaOH (2.8 ml) and the combined aqueous extracts were extracted with ether (2×30 ml). The aqueous layer was acidified to pH6 with dilute hydrochloric acid to give the title compound as a beige solid, (0.15 g, 18%).

reactant | n-Butyllithium | 1.6M, 2.67 ml | C(CCC)[Li]
reactant | 2-(4-bromophenyl)pyridine | 1.0 g | BrC1=CC=C(C=C1)C1=NC=CC=C1 | C11H8BrN
reactant | triisopropylborate | 1.18 ml | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | Water | 4.2 ml | O | H2O
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ether | 16 ml | CCOCC | C4H10O
product | 4-(Pyrid-2-yl)phenylboronic acid | 0.15 g, 18% | N1=C(C=CC=C1)C1=CC=C(C=C1)B(O)O | C11H10BNO2
